US07709503B2
Intermediate 5: Ethyl 4-methoxy-3-oxobutanoate
The title compound was prepared in a manner analogous to Intermediate 123 starting from 2,2-dimethyl-1,3-dioxane-4,6-dione and methoxyacetyl chloride.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | Ethyl 4-methoxy-3-oxobutanoate | COCC(CC(=O)OCC)=O | C7H12O4
